US07468378B2
Preparation of Intermediate 4′-tert-Butylbiphenyl-2-carboxylic acid
Crude 4′-tert-butylbiphenyl-2-carboxylic acid ethyl ester (33 g, ˜117 mmol) was taken up in a mixture of THF (100 mL), methanol (50 mL) and water (40 mL). Lithium hydroxide monohydrate (7.36 g, 176 mmol) was added and the reaction mixture was allowed to stir at room temperature for 3 days. The mixture was extracted three times with diethyl ether. The aqueous phase was then acidified using aq. 6N HCl and extracted three times with EtOAc. The combined EtOAc layers were dried over MgSO4, filtered and concentrated. The solid residue was triturated with hexane to afford the title compound as a white solid (18.7 g, 63%). 1H NMR (selected signals, DMSO-d6): 7.66 (dd, 1H), 7.53 (m, 1H), 7.41 (d, 2H), 7.25 (d, 2H), 1.29 (s, 9H).

reactant | 4′-tert-butylbiphenyl-2-carboxylic acid ethyl ester | ˜117 mmol, 33 g | C(C)OC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(C)(C)C | C19H22O2
reactant | methanol | 50 mL | CO | CH4O
reactant | water | 40 mL | O | H2O
reactant | Lithium hydroxide monohydrate | 176 mmol, 7.36 g | O.[OH-].[Li+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4′-tert-Butylbiphenyl-2-carboxylic acid | 18.7 g, 63% | C(C)(C)(C)C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O | C17H18O2
